US07618985B2
A mixture of 3-methoxy-4-methylbenzaldehyde (19.3 g, 0.129 mol), carbomethoxy methylene triphenylphosphorane (51 g) in toluene (250 ml) was refluxed for 24 h. The mixture was quenched with aqueous ammonium chloride and extracted with ethyl acetate and concentrated in vacuo to give a residue. The residue was purified by flash chromatography using ethyl acetate-heptane (1:1) to give 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester (27 g, 0.126 mol). A mixture of 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester (27 g), sodium hydroxide (14 g), water (70 ml), methanol (140 ml) and tetrahydrofuran (70 ml) was refluxed at 50° C. for 1 h. The mixture was concentrated in vacuo and then water added. The mixture was filtered and 5 M HCl was added until precipitation occurred. The mixture was filtered and the solid precipitate washed with water and dried in-vacuo to give 3-(3-methoxy-4-methylphenyl)acrylic acid (23.5 g, 0.122 mol).

reactant | 3-(3-methoxy4-methyl-phenyl)acrylic acid methyl ester | 27 g | COC(C=CC1=CC(=C(C=C1)C)OC)=O | C12H14O3
reactant | sodium hydroxide | 14 g | [OH-].[Na+]
reactant | water | 70 ml | O | H2O
reactant | methanol | 140 ml | CO | CH4O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-(3-methoxy-4-methylphenyl)acrylic acid | 0.122 mol, 23.5 g | COC=1C=C(C=CC1C)C=CC(=O)O | C11H12O3
